US09328106B2
To a solution of 5-(6-methoxy-3,5-dimethyl-3,6-dihydro-2H-pyran-2-yl)-1-methyl-4-nitro-pyrazole (100 mg, 0.38 mmol) in DCM (1 mL) cooled to −78° C. was added boron trifluoride diethyl etherate (0.14 mL, 1.13 mmol) and triethylsilane (0.36 mL), 2.68 mmol). After stirring at −78° C. for 1 hr, the reaction mixture was allowed to warm to room temperature and stirred for 18 hr. Saturated aqueous NaHCO3 (5 mL) and DCM (5 mL) were added and the organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (0-60% EtOAc/isohexane) gave 5-(3,5-dimethyl-3,6-dihydro-2H-pyran-2-yl)-1-methyl-4-nitro-pyrazole as a yellow oil. The reaction was repeated to provide more material. To a solution of 5-(3,5-dimethyl-3,6-dihydro-2H-pyran-2-yl)-1-methyl-4-nitro-pyrazole (305 mg, 1.29 mmol) in DCM (6.5 mL) cooled to 0° C. was added m-CPBA (70-75%, 382 mg, 1.54 mmol) and the mixture was stirred at 0° C. for 90 min. More m-CPBA (70-75%, 191 mg, 0.774 mmol) was added and the mixture was slowly warmed to room temperature over 6 hr. The mixture was filtered through Celite® washing with DCM (15 mL) and the filtrate washed with saturated aqueous NaHCO3 (2×10 mL). The organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (0-60% EtOAc/isohexane) gave 5-(2,6-dimethyl-4,7-dioxabicyclo[4.1.0]heptan-3-yl)-1-methyl-4-nitro-pyrazole as a single diastereomer as an off-white solid (189 mg, 53% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 5.32-5.28 (m, 1H), 4.15-4.08 (m, 1H), 4.06 (s, 3H), 3.78 (d, J=12.9 Hz, 1H), 3.30 (d, J=5.6 Hz, 1H), 2.71-2.61 (m, 1H), 1.38 (s, 3H), 0.92 (d, J=7.0 Hz, 3H).

reactant | 5-(6-methoxy-3,5-dimethyl-3,6-dihydro-2H-pyran-2-yl)-1-methyl-4-nitro-pyrazole | 0.38 mmol, 100 mg | COC1C(=CC(C(O1)C1=C(C=NN1C)[N+](=O)[O-])C)C | C12H17N3O4
reactant | boron trifluoride diethyl etherate | 1.13 mmol, 0.14 mL | B(F)(F)F.CCOCC
reactant | triethylsilane | 0.36 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(3,5-dimethyl-3,6-dihydro-2H-pyran-2-yl)-1-methyl-4-nitro-pyrazole | CC1C(OCC(=C1)C)C1=C(C=NN1C)[N+](=O)[O-] | C11H15N3O3
